US07157577B2
To a suspension of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (1.65 g, 7 mmol) in dichloromethane (15 mL) was added 1.36 g (8.4 mmol) of carbonyldiimidazole. The mixture was stirred at room temperature until the solution became clear. To the mixture was added dimethylamine (14 mL of a 2.0M solution in tetrahydrofuran). The mixture was stirred at room temperature overnight and then concentrated. The residue was redissloved in dichloromethane, washed with brine and concentrated. The solid was washed with ethyl acetate until it became white and dried to give 1.4 g (78% yield) of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-dimethyl-propionamide. 1H-NMR (360 MHz, diemthylsulfoxide-d6) δ10.93 (br s, 1H, NH), 6.48 (s, 1H), 2.94 (s, 3H, CH3), 2.79 (s, 3H, CH3), 2.72 (m, 2H, CH2), 2.57 (s, 2H, CH2), 2.48 (m, 2H, CH2), 2.17 (s, 2H, CH2), 1.00 (m, 6H, 2×CH3). MS m/z 262 [M+].

reactant | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 7 mmol, 1.65 g | CC1(CC(C=2C(=CNC2C1)CCC(=O)O)=O)C | C13H17NO3
reactant | carbonyldiimidazole | 8.4 mmol, 1.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-dimethyl-propionamide | 1.4 g, 78% yield | CC1(CC(C=2C(=CNC2C1)CCC(=O)N(C)C)=O)C | C15H22N2O2
